US09315458B2
To a solution of methyl 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoate (0.52 g) in DME (10.0 mL) were added bis(pinacolato)diboron (0.71 g), potassium acetate (0.55 g) and [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride dichloromethane adduct (0.08 g), and the mixture was stirred at 80° C. for 5 hr under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, water was added thereto, and the mixture was diluted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give methyl 3-fluoro-2-hydroxy-4-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate as a crude product. To a solution of the above-mentioned crude product in DME (10.0 mL) were added 1-(4-(bromomethyl)phenyl)-1H-pyrazole (0.44 g), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride dichloromethane adduct (0.08 g) and 2M aqueous sodium carbonate solution (1.86 mL), and the mixture was stirred at 80° C. overnight under argon atmosphere. The reaction mixture was allowed to be cooled to room temperature, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.21 g).

reactant | methyl 5-bromo-3-fluoro-2-hydroxy-4-methoxybenzoate | 0.52 g | BrC=1C(=C(C(=C(C(=O)OC)C1)O)F)OC | C9H8BrFO4
reactant | bis(pinacolato)diboron | 0.71 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.55 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | DME | 10.0 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-fluoro-2-hydroxy-4-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | FC=1C(=C(C(=O)OC)C=C(C1OC)B1OC(C(O1)(C)C)(C)C)O | C15H20BFO6
